US07112594B2
N-[3-cyano-4-(4-(2-hydroxyethyl)piperazin-1-yl)phenyl]benzo[b]thiophene-2-carboxamide
By the reaction and treatment in the same manner as in Example 6 using benzo[b]thiophene-2-carboxylic acid (1 g) and 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile (1.2 g), the title compound (0.8 g) was obtained. melting point: 238-239° C.

reactant | benzo[b]thiophene-2-carboxylic acid | 1 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | 5-amino-2-[4-(2-hydroxyethyl)piperazin-1-yl]benzonitrile | 1.2 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)CCO | C13H18N4O
product | N-[3-cyano-4-(4-(2-hydroxyethyl)piperazin-1-yl)phenyl]benzo[b]thiophene-2-carboxamide | 0.8 g | C(#N)C=1C=C(C=CC1N1CCN(CC1)CCO)NC(=O)C1=CC2=C(S1)C=CC=C2 | C22H22N4O2S
